US04814343
176 g (56.5 ml; 1.1 mole) of bromine dissolved in 400 ml of glacial acetic acid are added dropwise within 30 minutes, at 17° to 20° C. and under an atmosphere of argon, to a solution containing 37.5 g (0.55 mole) of ethyl 3-[(1H-imidazol-4-yl)methyl]-2-oxo-cyclohexanecarboxylate in 1.5 liter of glacial acetic acid. The reaction mixture is subsequently heated under reflux for 4 hours. The red solution becomes progressively blacker. The mixture is cooled to 20° C. and evaporated under reduced pressure. The residue is taken up in 1.2 liter of 50% aqueous acetic acid. There are then added a spatula tip of anion exchange resin (Amberlite IR 45 acetate), 25 g of 10% palladium on carbon and 25 g of 10% rhodium on carbon and hydrogenolysis is carried out for 150 minutes under a hydrogen pressure of 3.5 bars. The reaction mixture is filtered on Celite and the filtrate is evaporated under reduced pressure. The oil obtained is dissolved in 1 liter of an ice-water mixture and the solution is adjusted to a pH of 8 by the addition of a 2N aqueous sodium hydroxide solution and rapidly extracted 5 times with 400 ml of ethyl acetate. The organic phases are combined, dried over anhydrous magnesium sulfate, filtered and evaporated under reduced pressure. The residue is purified by chromatography on silica (eluent: 93.5:6.0:0.5 v/v/v dichloromethane-ethanol-ammonia). There are obtained 75.9 g of ethyl 3-[(1H-imidazol-4-yl)methyl]-2-hydroxybenzoate in the form of an oil which crystallizes slowly. Yield: 55% of theory; M.P.: 133° C.

reactant | bromine | 1.1 mole, 56.5 ml, 176 g | BrBr | Br2
reactant | ethyl 3-[(1H-imidazol-4-yl)methyl]-2-oxo-cyclohexanecarboxylate | 0.55 mole, 37.5 g | N1C=NC(=C1)CC1C(C(CCC1)C(=O)OCC)=O | C13H18N2O3
reactant | sodium hydroxide | 2N | [OH-].[Na+]
solvent | acetic acid | 400 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 1.5 liter | C(C)(=O)O | C2H4O2
product | ethyl 3-[(1H-imidazol-4-yl)methyl]-2-hydroxybenzoate | 75.9 g, Yield: 55% | N1C=NC(=C1)CC=1C(=C(C(=O)OCC)C=CC1)O | C13H14N2O3
